US20010027196A1
2-Amino-4-furan-2-yl-6-(3-phenyl-allyloxy)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, (E)-cinnamyl alcohol and DBU in DME. ES-MS m/e (%): 319 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | (E)-cinnamyl alcohol | C(\C=C\C1=CC=CC=C1)O | C9H10O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-(3-phenyl-allyloxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)OCC=CC1=CC=CC=C1 | C18H14N4O2
